US06982348B2
To a solution of ethyl (2RS,3SR)-3-(4-fluorophenyl)-3-hydroxy-2-((4-(trifluoromethyl)phenyl)methyl)propionate (4.85 g, 13.1 mmol) in methanol (20 ml) was added 1N aqueous sodium hydroxide solution (13.1 ml, 13.1 mmol), and the mixture was stirred at room temperature for 6 hrs. The reaction solution was evaporated under reduced pressure, diluted with 1N hydrochloric acid (50 ml), and extracted with ethyl acetate (100 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give (2RS,3SR)-3-(4-fluorophenyl)-3-hydroxy-2-((4-(trifluoromethyl)phenyl)methyl)propionic acid (3.8 g, 84%).

reactant | ethyl (2RS,3SR)-3-(4-fluorophenyl)-3-hydroxy-2-((4-(trifluoromethyl)phenyl)methyl)propionate | 13.1 mmol, 4.85 g | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)O | C19H18F4O3
reactant | sodium hydroxide | 13.1 mmol, 1N, 13.1 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | (2RS,3SR)-3-(4-fluorophenyl)-3-hydroxy-2-((4-(trifluoromethyl)phenyl)methyl)propionic acid | 3.8 g, 84% | FC1=CC=C(C=C1)C(C(C(=O)O)CC1=CC=C(C=C1)C(F)(F)F)O | C17H14F4O3
